US05654326
A mixture of 767 mg (1.9 mmol) of [[3-(2-amino-1,2-dioxoethyl)-1-[(4-fluorophenyl)methyl]-2-methyl-1H-indol-4-yl]oxy]acetic acid methyl ester, 10 mL of 1N NaOH and 30 mL of MeOH was heated to maintain reflux for 0.67 hours, cooled to room temperature and stirred 1 hour. Ethyl acetate and water were added and the aqueous layer separated, made acidic to pH 2-3 with 1N HCl and the mixture extracted wtih ethyl acetate two times. The combined ethyl acetate extracts were dried (MgSO4) and concentrated. The remaining solid was washed with a small volume of ethyl acetate to give 593 mg (81% yield) of [[3-(2-amino-1,2-dioxoethyl)-1-[(4-fluorophenyl)methyl]-2-methyl-1H-indol-4-yl]oxy]acetic acid, mp, 244°-247° C.

reactant | [[3-(2-amino-1,2-dioxoethyl)-1-[(4-fluorophenyl)methyl]-2-methyl-1H-indol-4-yl]oxy]acetic acid methyl ester | 1.9 mmol, 767 mg | COC(COC1=C2C(=C(N(C2=CC=C1)CC1=CC=C(C=C1)F)C)C(C(=O)N)=O)=O | C21H19FN2O5
reactant | NaOH | 1N, 10 mL | [OH-].[Na+]
reactant | MeOH | 30 mL | CO | CH4O
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | [[3-(2-amino-1,2-dioxoethyl)-1-[(4-fluorophenyl)methyl]-2-methyl-1H-indol-4-yl]oxy]acetic acid | 593 mg, 81% yield | NC(C(=O)C1=C(N(C2=CC=CC(=C12)OCC(=O)O)CC1=CC=C(C=C1)F)C)=O | C20H17FN2O5
